US05571810
A mixture of 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (1 g), thallium(III) nitrate trihydrate (1.4 g) and perchloric acid (70%; 3 ml) in methanol (15 ml) and dioxane (7 ml) was stirred at ambient temperature for 7 hours. The insoluble material was filtered. The filtrate was diluted with water and extracted with chloroform. The extract was dried over magnesium sulfate and concentrated to give an oil of methyl 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetate (1.2 g).

reactant | 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 1 g | C(C)(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO3S2
reactant | thallium(III) nitrate trihydrate | 1.4 g | O.O.O.[N+](=O)([O-])[O-].[Tl+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | perchloric acid | 3 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 15 ml | CO | CH4O
product | methyl 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]thiophene-2-acetate | 1.2 g | FC1=CC=C(C=C1)C1=C(C=C(S1)CC(=O)OC)C1=CC=C(C=C1)S(=O)(=O)C | C20H17FO4S2
